US05300506
To a solution of 25.0 g (133 mmol, 1.0 equiv.) of 4-nitro benzylamine hydrochloride in 500 mL of methylene chloride at 0° C. was added 46.4 mL (331 mmol, 2.5 equiv.) of triethylamine followed by 11.3 mL (146 mmol, 1.1 equiv.) of methanesulfonyl chloride dropwise. The reaction was stirred for thirty minutes at 0° C. then diluted with 500 mL of chloroform. The organic layer was washed with 150 mL portions of 1N HCl and saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered and concentrated to give 25.8 g (85%) of N-[(4-nitrophenyl)methyl]methanesulfonamide.

reactant | 4-nitro benzylamine hydrochloride | 133 mmol, 25.0 g, 1.0 equiv. | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | triethylamine | 331 mmol, 46.4 mL, 2.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 146 mmol, 11.3 mL, 1.1 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[(4-nitrophenyl)methyl]methanesulfonamide | 25.8 g, 85% | [N+](=O)([O-])C1=CC=C(C=C1)CNS(=O)(=O)C | C8H10N2O4S
